US05728899
Preparation of 4-tert-butoxy-cyclopent-2-enone.
A solution of 4-hydroxy-2-cyclopentenone (1.15 g, 11.7 mmol) in methylene chloride is cooled to 3° C. and treated sequentially with tert-butyl trichloroacetimidate (4.2 mL, 23.7 mmol) and boron trifluoride diethyl etherate (0.15 mL). The reaction mixture is stirred at 3-10° C. for 2 hours and then allowed to warm to room temperature and stirred for 22 hours. The reaction mixture is then treated with sodium bicarbonate (250 mg) and filtered. The filtrate is concentrated under vacuum and the residue is purified by chromatography (silica gel, 39 g, 20% ethyl acetate/hexane, 600 mL) to provide the title compound (355 mg, 40%) as a yellow oil; 1H NMR (CDCl3)δ7.44 (dd, 1H, J=18 Hz), 6.2 (d, 1H, J=5.4 Hz), 4.8 (m, 1H), 2.68 (dd, 1H, J=5.8, 18 Hz), 2.25 (d, 1H, J=18 Hz), 1.27 (s, 9H); IR (neat) νmax 2976, 2936, 1721, 1368, 1352, 1188, 1103, 1161 cm-1 ; MS (CI) m/e (% relative intensity) 155 (M+H+, 22), 99 (100).

reactant | 4-hydroxy-2-cyclopentenone | 11.7 mmol, 1.15 g | OC1C=CC(C1)=O | C5H6O2
reactant | tert-butyl trichloroacetimidate | 23.7 mmol, 4.2 mL | ClC(C(OC(C)(C)C)=N)(Cl)Cl | C6H10Cl3NO
reactant | boron trifluoride diethyl etherate | 0.15 mL | B(F)(F)F.CCOCC
reactant | sodium bicarbonate | 250 mg | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-tert-butoxy-cyclopent-2-enone | 355 mg, 40% | C(C)(C)(C)OC1C=CC(C1)=O | C9H14O2
